US05075293
Preparation of O,S-Dimethyl (3-Thiazolidinylcarbonyl)phosphoramidothioate
A solution of 4.45 g of thiazolidine in 100 ml of ether was cooled to about 0° C. and 8.35 g of O,S-dimethyl phosphoroisocyanatidothioate was added dropwise with stirring. The mixture was allowed to warm to ambient temperature and react for about 1 hour at which time the precipitate that formed was collected by filtration. This precipitate was then recrystallized from a small amount of 2-propanol to obtain 3.6 g (28 percent of theory) of the title compound as white crystals melting at 84°-86° C.

reactant | thiazolidine | 4.45 g | S1CNCC1 | C3H7NS
reactant | O,S-dimethyl phosphoroisocyanatidothioate | 8.35 g | P(OC)(SC)(N=C=O)=O | C3H6NO3PS
solvent | ether | 100 ml | CCOCC | C4H10O
product | O,S-Dimethyl (3-Thiazolidinylcarbonyl)phosphoramidothioate | S1CN(CC1)C(=O)NP(OC)(SC)=O | C6H13N2O3PS2
